US07524845B2
Synthesis of 1-[4-(4-chloro-2-fluoro-5-methoxy-phenyl)-2-(S)-methyl-piperazin-1-yl]-2-(3-oxazol-2-yl-pyrazolo[3,4-b]pyridin-1-yl)-ethanone:
To a solution of oxazole (40 μL, 0.54 mmol, 3 equiv) in tetrahydrofuran (1 mL) under nitrogen atmosphere, was added dropwise n-butyl lithium (2.5 M in Hexane, 220 μL, 0.54 mmol, 3 equiv.). The resultant mixture was stirred at −78° C. for an additional 30 min followed by the addition of ZnCl2 (0.5M in THF, 1.5 mL, 0.72 mmol, 4 equiv.). The reaction solution was allowed to warm to 0° C. and stirred 1 hr followed by the addition of 1-[4-(4-chloro-2-fluoro-5-methoxy-phenyl)-2-(S)-methyl-piperazin-1-yl]-2-(3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-ethanone (100.2 mg, 0.18 mmol, 1 equiv) and palladium tetrakis(triphenylphosphine) (22.3 mg, 0.018, 0.1 equiv). The reaction mixture was then heated to reflux for 48 hr, cooled to room temperature and diluted with ethyl acetate (150 mL). The reaction mixture was washed with water (20 mL), brine (20 mL), dried over sodium sulfate, and concentrated in vacuo to provide the crude product. Purification by preparative HPLC provided the desired product 1-[4-(4-chloro-2-fluoro-5-methoxy-phenyl)-2-(S)-methyl-piperazin-1-yl]-2-(3-oxazol-2-yl-pyrazolo[3,4-b]pyridin-1-yl)-ethanone as a white powder (38.5 mg): LCMS (ES) M+H 485.5, Rf 2.56 min (Agilent Zorbax SB-C18, 2.1×50 mm, 5μ, 35° C., 1 ml/min flow rate, a 2.5 min gradient of 20% to 100% B with a 1.1 min wash at 100% B; A=0.1% formic acid /5% acetonitrile /94.9% water, B=0.1% formic acid /5% water/94.9% acetonitrile).

reactant | oxazole | 0.54 mmol, 40 μL, 3 equiv | O1C=NC=C1 | C3H3NO
reactant | n-butyl lithium | 0.54 mmol, 2.5 M, 220 μL, 3 equiv. | C(CCC)[Li]
reactant | 1-[4-(4-chloro-2-fluoro-5-methoxy-phenyl)-2-(S)-methyl-piperazin-1-yl]-2-(3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-ethanone | 0.18 mmol, 100.2 mg, 1 equiv | ClC1=CC(=C(C=C1OC)N1C[C@@H](N(CC1)C(CN1N=C(C=2C1=NC=CC2)I)=O)C)F | C20H20ClFIN5O2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | ZnCl2 | 0.72 mmol, 0.5M, 1.5 mL, 4 equiv. | [Cl-].[Cl-].[Zn+2]
catalyst | palladium tetrakis(triphenylphosphine) | 22.3 mg, 0.1 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 1-[4-(4-chloro-2-fluoro-5-methoxy-phenyl)-2-(S)-methyl-piperazin-1-yl]-2-(3-oxazol-2-yl-pyrazolo[3,4-b]pyridin-1-yl)-ethanone | 38.5 mg | ClC1=CC(=C(C=C1OC)N1C[C@@H](N(CC1)C(CN1N=C(C=2C1=NC=CC2)C=2OC=CN2)=O)C)F | C23H22ClFN6O3
